US07504411B2
To a solution of furnished 4-(4-bromophenyl)-piperidine-1-carboxylic acid tert-butyl ester (1114 mg, 3.27 mmol) in ethyl acetate (1 mL) was added 4 N hydrogen chloride in ethyl acetate (2 mL) at room temperature. After stirring for 5 h, solvent was removed in vacuo, and the resulting solid was washed with ethyl acetate and dried in vacuo to afford (4-(4-bromophenyl)-piperidine hydrochloride (884 mg, 98%) as a white solid.

reactant | 4-(4-bromophenyl)-piperidine-1-carboxylic acid tert-butyl ester | 3.27 mmol, 1114 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)Br | C16H22BrNO2
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | 4-(4-bromophenyl)-piperidine hydrochloride | 884 mg, 98% | Cl.BrC1=CC=C(C=C1)C1CCNCC1 | InChI=1S/C11H14BrN.ClH/c12-11-3-1-9(2-4-11)10-5-7-13-8-6-10;/h1-4,10,13H,5-8H2;1H
